US09371320B2
F) 4-(1-(4-amino-2-fluoro-6-methoxyphenyl)-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)thiophene-2-carboxamide
To a solution of 4-(1-(2-fluoro-6-methoxy-4-nitrophenyl)-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)thiophene-2-carboxamide (45.0 mg) and calcium chloride (11.7 mg) in a mixed solvent of ethanol (5 ml) and water (1 ml) was added reduced iron (29.3 mg), and the mixture was stirred at 100° C. for 2 hr. The insoluble substance was removed by the filtration, and washed with water and ethyl acetate. The filtrate was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (30.0 mg).

reactant | 4-(1-(2-fluoro-6-methoxy-4-nitrophenyl)-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)thiophene-2-carboxamide | 45.0 mg | FC1=C(C(=CC(=C1)[N+](=O)[O-])OC)N1C=C(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)N | C19H13FN4O5S
reactant | calcium chloride | 11.7 mg | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 4-(1-(4-amino-2-fluoro-6-methoxyphenyl)-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridin-3-yl)thiophene-2-carboxamide | 30.0 mg | NC1=CC(=C(C(=C1)OC)N1C=C(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)N)F | C19H15FN4O3S
